* Z:\mnt\spice-netlists\LT8310_LT1431_48Vin_54Vout_1.7A.asc
XU1 N003 MP_01 N006 MP_02 N009 N012 MP_03 N019 N021 N020 NC_04 MP_05 N013 N010 N004 N007 MP_06 IN MP_07 MP_08 0 LT8310
V1 IN 0 53
C1 N009 0 5600p
C2 N004 0 4.7µ
R1 N004 N007 105K
R2 N012 0 56.2K
C3 N019 0 .1µ
M§Q1 N008 N010 N014 N014 BSC320N20NS3
R3 N014 0 0.012
L1 N008 IN 300µ
L2 0 N001 1875µ
D1 0 N002 MUR460
D2 N001 N002 MUR460
L3 N002 OUT 220µ
C4 OUT 0 47µ
C5 N008 N014 180p
XU2 N017 NC_09 N011 NC_10 0 0 NC_11 N005 LT1431
R4 N020 0 10K
R5 N004 N020 100K
R6 OUT N005 95.3K
R7 N005 0 4.64K
C6 N018 N017 .01µ
R8 N005 N018 28K
R9 N011 N016 3.3K
C7 N011 N016 3300p
R10 N004 N015 3K
R11 N015 N021 61.9K
R12 N021 0 20K
R13 IN N003 155.3K
R14 N003 N006 2.53K
R15 N006 0 3.25K
XU3 N016 N017 N015 0 NC_12 MOC205 Igain=2.44m
C8 N021 0 1000p
C9 IN 0 4.7µ
R16 OUT N011 7K
C10 0 N011 .22µ
D4 0 N011 EDZV11B
R17 N014 N013 50
C11 N013 0 22n
Rload OUT 0 32
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 10m startup
* LT8310 - 100 Vin Forward Converter Controller\nLT1431 - Programmable Reference\n92W Isolated Nonsynchronous Forward Converter with Opto Feedback\nInput: 43V to 53V       Output: 54V @ 1.7A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LT1431.sub
.lib LT8310.sub
.lib MOC205.sub
.backanno
.end
