* Z:\mnt\spice-netlists\LT3752_LT8311_DC1994A.asc
XU1 0 MP_01 0 MP_02 N012 N022 N022 N022 N034 N030 N023 N029 NC_03 N035 N028 N013 MP_04 N017 MP_05 N016 0 LT8311
R1 N025 0 8m
L1 IN N005 65µ
L2 N001 N006 65µ
L3 N001 OUT 6.8µ
C1 OUT 0 22µ x2
R2 OUT N023 100K
R3 N023 0 11.3K
R4 N026 N031 5.9K
R5 N031 0 1.82K
V1 IN 0 48
Rload OUT 0 1
C2 N003 0 4.7µ
M§Q1 N005 N020 N025 N025 BSC077N12NS3
R7 IN N026 100K
R8 N034 N033 3.4K
R9 N032 N003 100
R10 N040 0 1K
C3 OUT N023 68p
L4 0 N043 785µ
C4 N042 N043 220p
R11 N028 0 560
XU2 N007 N018 N044 N039 N038 NC_06 N037 N045 N026 N031 N047 N048 N049 N046 MP_07 MP_08 N041 0 0 0 N027 N024 MP_09 N020 MP_10 N003 MP_11 IN MP_12 N042 MP_13 N019 MP_14 N008 MP_15 N009 LT3752
C5 N037 0 .01µ
C6 N041 0 .002µ
R12 N044 0 31.6K
R13 N045 0 71.5K
R14 N046 0 34K
R15 N047 0 49.9K
R16 N048 0 22.6K
R17 N049 0 7.32K
R18 N027 N025 2K
M§Q2 N006 N012 0 0 BSC060N10NS3
C7 OUT 0 180µ
C8 N005 N011 .015µ
M§Q3 N011 N014 0 0 Si7113DN
C9 N014 N019 .1µ
R19 N014 0 10K
D1 N014 0 BAT46WJ
L5 0 N028 785µ
M§Q4 N004 N008 N010 N010 BSP89
R20 N010 0 .15
R21 N010 N009 499
L6 0 N002 25.7µ
D2 N002 N003 BAT46WJ
R22 N007 0 1.1K
R23 N003 N007 10K
C10 N018 N015 3300p
L7 IN N004 222µ
C11 N003 0 6.8µ
R24 N038 N039 100K
R25 N039 N040 100K
C12 N032 0 1µ
R26 N017 0 200
R27 N001 N016 200
R28 N029 0 499K
C14 N035 0 .01µ
C15 N030 N036 4700p
M§Q5 N001 N013 0 0 BSC077N12NS3
R29 N025 N024 12.4K
R30 N024 0 20K
XU3 N033 0 N032 N040 PC817 Igain=1.5m
C16 IN 0 4.7µ x3
R31 N015 0 28K
L8 0 N021 25.7µ
D3 N021 N022 BAT46WJ
C17 N022 0 2.2µ x2
R32 N036 0 13.7K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 6m startup
K2 L4 L5 1
K3 L6 L7 L8 1
* LT3752 - Active Clamp Synchronous Forward Controllers with Internal Housekeeping Controller\nLT8311 - Synchronous Rectifier Controller with Opto-Coupler Driver for Forward Converters\nActive Clamp Forward Converter with Synchronous Rectification\nInput: 36V to 72V     Output: 12V @ 12A
* Note:\n  Some values like those for SS capacitors have been changed to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LT3752.sub
.lib LT8311.sub
.lib PC817.sub
.backanno
.end
