* Z:\mnt\spice-netlists\LT6110_LT3976_DN529F2.asc
R1 N007 0 100K
C1 N004 0 .001µ
V1 IN 0 12
L1 N008 N001 6.8µ
C2 N005 N008 .47µ
C3 N001 0 100µ
R2 N001 N009 10K
R3 N009 N010 340K
C4 N001 N010 180p
D1 0 N008 B540C
XU1 N010 N004 N001 N005 N008 MP_01 MP_02 MP_03 MP_04 IN MP_05 MP_06 IN N007 N002 MP_07 0 LT3976
C5 N008 0 470p
R4 N001 N006 1.5K
XU2 N006 N001 NC_08 N003 0 0 N009 LT6110
R5 N001 N003 25m
R6 N010 0 200K
C6 IN 0 10µ
R7 N003 OUT 140m
C7 OUT 0 220µ
I1 OUT 0 PULSE(1 5 1.5m 1u 1u 1m 2m)
R8 N002 N001 100K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
* LT6110 - Cable/Wire Drop Compensator\nLT3976 - 40V, 5A, 2MHz Step-Down Switching Regulator with 3.3µA Quiescent Current\nBuck Regulator with Cable/Wire Voltage Drop Compensation\nInput: 5V to 40V, Output: 3.3V @ 5A
* Note:\n  A smaller soft start capacitor (C1) is used to speed up simulation. Typical value should be .01µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT3976.sub
.lib LTC5.lib
.backanno
.end
