* Z:\mnt\spice-netlists\LT8614_LT3083_LEDdriver.asc
R1 N006 0 18.2K
V1 IN 0 12
C2 N001 0 1µ
C3 N002 N003 .1µ
C4 OUT 0 100µ
XU1 OUT N001 N002 IN MP_01 0 MP_02 N003 MP_03 0 MP_04 MP_05 IN IN N006 N004 N001 0 NC_06 N005 LT8614
C6 IN 0 .1µ
C7 IN 0 .1µ
C1 N004 0 1n
D1 OUT N005 AOT-2015 n=1
R5 N007 0 40
C8 N007 0 2.2µ
XU2 MP_07 N008 N007 IN N005 LT3083
C9 N005 0 10µ
V3 N008 0 PULSE(1.024 4.096 0 1n 1n 100u 200u)
L1 N003 OUT 2.2µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
* LT8614 - 42V, 4A Synchronous Step-Down Silent Switcher with 2.5µA Quiescent Current\nLT3083 - Adjustable 3A Single Resistor Low Dropout Regulator\nHyrbrid Wide Dimming Ratio Linear LED Current Controller\nInput: 3.4V to 42V     Output: 3A Max
.lib LT3083.sub
.lib LT8614.sub
.backanno
.end
