* Z:\mnt\spice-netlists\LT1792_LT1097_TA01.asc
XU1 IN N002 +V -V OUT LT1792
R1 OUT N001 3.9K
R2 N002 N001 100Meg
R3 N001 0 200
R4 IN N005 100Meg
R5 N005 0 1Meg
R6 N003 N005 100K
R7 OUT N004 1Meg
R8 N006 0 1Meg
C1 N004 N003 .47µ
V1 IN 0 SINE(10m 10m 1K 3m)
V2 +V 0 10
V3 -V 0 -10
C2 N001 N002 100p
XU2 N006 N004 +V -V N003 LT1097
.tran 10m startup
* LT1792 - Low Noise, Precision, JFET Input Op Amp\nLT1097 - Low Power Precision Op Amp\nLow Noise Hydrophone Amplifier with DC Servo
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LTC.lib
.backanno
.end
