* Z:\mnt\spice-netlists\LT3790_LTJV24N4F3.asc
C1 N027 0 .33n
C2 N028 0 47n
V1 IN 0 32
R1 IN N001 1.5m
R2 IN N005 499K
R3 N005 0 88.7K
R4 N003 N001 51
C3 IN N003 470n
C4 0 N004 4.7µ
R5 IN N007 499K
R6 N007 0 27.4K
R7 N023 0 200K
C5 N021 0 .1µ
M§Q1 N001 N010 N013 N013 BSC100N06LS3
M§Q2 N013 N016 N019 N019 BSC100N06LS3
L1 N013 N014 10µ
C6 N008 N013 .1µ
D1 N004 N008 BAT46WJ
C7 N006 N014 .1µ
D2 N004 N006 BAT46WJ
M§Q3 N002 N011 N014 N014 BSC035N04LS
M§Q4 N014 N017 N019 N019 BSC035N04LS
R8 N019 0 4m
R9 N022 N025 71.5K
R10 N025 0 3.83K
R11 N002 OUT 8m
C8 N002 0 4.7µ x2
C9 OUT 0 220µ x4
R12 N004 N018 200K
R13 N021 N027 100K
XU1 N021 N027 N021 N020 N018 N021 N015 N012 N005 IN N003 N001 N004 N010 N008 N013 0 N016 N017 MP_01 N014 N006 MP_02 N011 N002 OUT N019 0 MP_03 0 N024 N004 N009 0 N023 N026 N025 N007 LT3790
R14 OUT N022 1.37K
C10 N026 0 1000p
R15 N026 N028 147K
C11 OUT N002 .47µ
C12 N055 0 .33n
C13 N056 0 22n
R16 IN N029 1.5m
R17 IN N033 499K
R18 N033 0 88.7K
R19 N031 N029 51
C14 IN N031 470n
C15 0 N032 4.7µ
R20 IN N035 499K
R21 N035 0 27.4K
R22 N051 0 200K
C16 N049 0 .1µ
M§Q5 N029 N038 N041 N041 BSC100N06LS3
M§Q6 N041 N044 N047 N047 BSC100N06LS3
L2 N041 N042 10µ
C17 N036 N041 .1µ
D3 N032 N036 BAT46WJ
C18 N034 N042 .1µ
D4 N032 N034 BAT46WJ
M§Q7 N030 N039 N042 N042 BSC035N04LS
M§Q8 N042 N045 N047 N047 BSC035N04LS
R23 N047 0 4m
R24 N050 N054 71.5K
R25 N054 0 3.83K
R26 N030 OUT 8m
C19 N030 0 4.7µ x2
R27 N032 N046 200K
R28 N049 N055 100K
XU2 N015 N055 N049 N048 N046 N049 N043 N040 N033 IN N031 N029 N032 N038 N036 N041 0 N044 N045 MP_04 N042 N034 MP_05 N039 N030 OUT N047 0 MP_06 0 N053 N032 N037 N009 N051 N052 N054 N035 LT3790
R29 OUT N050 14K
R30 N052 N056 470
C20 OUT N030 .47µ
C21 IN 0 4.7µ x4
C22 IN 0 47µ x2
Rload OUT 0 2.4
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4m startup
* LT3790 - 60V Synchronous 4-Switch Buck-Boost Controller\n240W High Efficiency Parallel Buck-Boost Regulator\nInput: 8V to 56V     Output: 12V @ 10A* \n*25A for Vin > 20V & R11/R26 = 4m Ohms
* Notes:\n  A smaller SS capacitor, C1/C12, is being used to reduce simulation time. Typical value should be 33nF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT3790.sub
.backanno
.end
